US04244967
6.5 gm of bromine were added dropwise into a boiling solution of 12 gm of 4'-ethoxycarbonylamino-5'-bromo-3'-methyl-acetophenone in 200 ml of chloroform, whereupon hydrobromic acid was rapidly formed. The solution obtained, containing 4'-ethoxycarbonylamino-5', 2-dibromo-3'-methyl-acetophenone, was admixed with 14.6 gm of tert. butylamine. After refluxing for 30 minutes, the resulting solution containing 4'-ethoxycarbonylamino-5'-bromo-3'-methyl-2-tert. butylamino-acetophenone was evaporated in vacuo. The residue was dissolved in 50 ml of methanol and 20 ml of water. Reduction was effected by addition thereto of a solution of 3.8 gm of sodium borohydride in 20 ml of water with simultaneous adjustment of the pH to between 6 and 8 by addition of dilute hydrochloric acid. After reduction was complete, the methanol was distilled off in vacuo. The residue obtained was admixed with water, and the resulting solution was made alkaline by addition of liquid ammonia and extracted with chloroform. The organic phase was separated, dried and evaporated in vacuo. The evaporation residue was purified on a silicagel column (eluant: chloroform/methanol 2:1). After evaporation, the residue was dissolved in ethanol, and the solution obtained was admixed with ethereal hydrochloric acid to yield 1-(4-ethoxycarbonylamino-5-bromo-3-methyl-phenyl)-2-tert. butylamino-ethanol hydrochloride.

reactant | bromine | 6.5 gm | BrBr | Br2
reactant | 4'-ethoxycarbonylamino-5'-bromo-3'-methyl-acetophenone | 12 gm | C(C)OC(=O)NC1=C(C=C(C=C1Br)C(C)=O)C | C12H14BrNO3
reactant | hydrobromic acid | Br | BrH
reactant | 4'-ethoxycarbonylamino-5', 2-dibromo-3'-methyl-acetophenone | C(C)OC(=O)NC1=C(C=C(C=C1Br)C(CBr)=O)C | C12H13Br2NO3
reactant | tert. butylamine | 14.6 gm | C(C)(C)(C)N | C4H11N
reactant | 4'-ethoxycarbonylamino-5'-bromo-3'-methyl-2-tert. butylamino-acetophenone | C(C)OC(=O)NC1=C(C=C(C=C1Br)C(CNC(C)(C)C)=O)C | C16H23BrN2O3
reactant | ammonia | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 1-(4-ethoxycarbonylamino-5-bromo-3-methyl-phenyl)-2-tert. butylamino-ethanol hydrochloride | Cl.C(C)OC(=O)NC1=C(C=C(C=C1Br)C(CNC(C)(C)C)O)C | InChI=1S/C16H25BrN2O3.ClH/c1-6-22-15(21)19-14-10(2)7-11(8-12(14)17)13(20)9-18-16(3,4)5;/h7-8,13,18,20H,6,9H2,1-5H3,(H,19,21);1H
